* C:\Users\avent\OneDrive\Documents\EE499-FYP\LTSpice Boost Converter\LTC1871_Validated_Final_Fixed_V2_AC_Analysis.asc
* Generated by LTspice 24.1.10 for Windows.
Cin IN 0 120µ
R1 N013 0 68.1K
R2 N012 0 56K
R3 OUT N012 499K
L1 N001 SW 10µ Rser=14m
D1 SW OUT MBR735
C1a OUT 0 77µ
C1b OUT 0 12µ
R4 N010 N009 8.66K
C2 N009 0 6.8n
C3 N010 0 100p
X§U1 N003 N010 N014 N013 0 0 N011 N008 N001 SW LTC1871 ;§pnba Run)Ith)FB)Freq)Mode)GND)Gate)INTVcc)Vin)Sense
V1 N002 0 {VIN}
C4 N008 0 4.7µ
I1 OUT 0 PWL(0 0.5 0.005 0.5 0.0051 2 0.008 2)
R5 IN N002 1µ
M1 SW N011 0 0 IRF7811
R6 N003 N002 49k
R7 0 N003 10k
M2 N007 N004 IN IN AO6407
R8 0 N004 10k
C5 OUT 0 100µ Rser=0.1
D2 N007 N001 1N5818
D3 N006 N005 BZX84C10VLY
Q1 N003 N006 0 0 NPN
R9 N005 IN 5.38k
R10 N006 0 10k
V2 N012 N014 SINE(0 100m 50000 5m 0 0 0) AC 1 0
L2 N012 N014 1G
.model D D
.lib C:\Users\avent\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\avent\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\avent\AppData\Local\LTspice\lib\cmp\standard.mos
.param VIN=10
; === OUTPUT VOLTAGE (Abstract: 12.20V) ===
.meas TRAN Vout_before AVG V(OUT) FROM 4m TO 5m
.meas TRAN Vout_after AVG V(OUT) FROM 6m TO 7m
; === LOAD TRANSIENT (Abstract: 127mV droop, 1.5A step) ===
.meas TRAN Vout_droop MIN V(OUT) FROM 5.1m TO 5.4m
.meas TRAN Vout_droop_mV PARAM (Vout_before-Vout_droop)*1000
.meas TRAN Vout_droop_pct PARAM (Vout_before-Vout_droop)/Vout_before*100
.meas TRAN Vout_recovery FIND TIME WHEN V(OUT)=12.15 CROSS=2 TD=5m
; === OUTPUT RIPPLE (Abstract: 184mV) ===
.meas TRAN Vout_ripple PP V(OUT) FROM 6m TO 7m
.meas TRAN Vout_ripple_mV PARAM Vout_ripple*1000
; === INDUCTOR CURRENT ===
.meas TRAN IL_peak MAX I(L1) FROM 4m TO 5m
; === EFFICIENCY (Abstract: 94.83%) ===
.meas TRAN Pin AVG V(IN)*(-I(V1)) FROM 6m TO 7m
.meas TRAN Pout AVG V(OUT)*I(I1) FROM 6m TO 7m
.meas TRAN Eff PARAM Pout/Pin*100
.meas TRAN Iin_avg AVG I(L1) FROM 6m TO 7m
.meas TRAN P_D1 AVG (V(SW)-V(OUT))*I(D1) FROM 6m TO 7m
.meas TRAN P_M1 AVG V(SW)*Id(M1)         FROM 6m TO 7m
.meas TRAN P_L1 AVG I(L1)*I(L1)*0.014    FROM 6m TO 7m
.meas TRAN P_loss_total PARAM Pin-Pout
.meas TRAN P_M2 AVG V(n007, in)*Id(M2) FROM 6m TO 7m
; Total input current (from battery)
.meas TRAN I_total_in AVG -I(V1) FROM 6m TO 7m
; Inductor average current (should equal input current in ideal boost)
.meas TRAN I_L1_avg AVG I(L1) FROM 6m TO 7m
; Current difference = IC + dividers + protection + parasitics
; (I_total_in - I_L1_avg) * VIN = unaccounted power
; UVLO divider power (purely resistive, calculable)
.meas TRAN V_IN_avg AVG V(IN) FROM 6m TO 7m
; OVLO network current (through R9)
.meas TRAN I_R9 AVG I(R9) FROM 6m TO 7m
.meas TRAN I_R10 AVG I(R10) FROM 6m TO 7m
; R5 power
.meas TRAN P_R5 AVG I(R5)*I(R5)*5.36 FROM 6m TO 7m
; Capacitor currents (RMS for ESR loss estimate)
.meas TRAN I_Cin_rms RMS I(Cin) FROM 6m TO 7m
* === VALIDATED MODEL with series FDS4435A Protection (17-Apr-2026, D2 removed from power path) ===
* M1: IRF7811 N-MOSFET (validated, SI4894BDY for hardware)
* M2: FDS4435A P-MOSFET (simulation proxy for DMP3099L)
* R6/R7: 49k/10k RUN pin UVLO divider (VIN,enable = 8V)
* C1a: 77uF (7x22uF derated), C1b: 12uF (2x10uF derated), C5: 100uF electrolytic
* D1: MBR735, L1: 10uH, M2 series protection (D2 zener removed - was in power path causing 6.5W loss)
.tran 0 20m 5m 10n
.meas TRAN V_sense_pp PP V(n012) FROM 10m TO 15m
.meas TRAN V_ic_pp PP V(n014) FROM 10m TO 15m
.lib LTC1871.sub
.backanno
.end
